US08034949B2
To a solution of (3R)-3-(tert-butyloxycarbonylamino)pyrrolidine (10.0 g) and triethylamine (5.43 g) in methylene chloride (100 mL) was added dropwise a solution of benzyloxycarbonyl chloride (7.7 mL) in methylene chloride (20 mL) over a period of 15 minutes under nitrogen gas atmosphere and ice-cooling and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added water (70 mL) and the mixture was extracted with chloroform. The extract was washed successively with water (70 mL), 5% citric acid solution (70 mL) and a saturated brine (70 mL) and the organic layer was dried over anhydrous magnesium sulfate. After concentration in vacuo, the resultant product was triturated in diisopropylether to give (3R)-1-benzyloxycarbonyl-3-(tert-butoxycarbonylamino)pyrrolidine (11.8 g, yield: 70%) as crystals.

reactant | (3R)-3-(tert-butyloxycarbonylamino)pyrrolidine | 10.0 g | C(C)(C)(C)OC(=O)N[C@H]1CNCC1 | C9H18N2O2
reactant | triethylamine | 5.43 g | C(C)N(CC)CC | C6H15N
reactant | benzyloxycarbonyl chloride | 7.7 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | water | 70 mL | O | H2O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (3R)-1-benzyloxycarbonyl-3-(tert-butoxycarbonylamino)pyrrolidine | 11.8 g, yield: 70% | C(C1=CC=CC=C1)OC(=O)N1C[C@@H](CC1)NC(=O)OC(C)(C)C | C17H24N2O4
